US08044213B2
A mixture of 0.1289 g (0.295 mmole) of 2-(5-formyl-2-nitro-phenylamino)-4-(3-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide (VI.48b), 6.5 mL of dichloromethane, 0.1 mL (0.892 mmole) of 1-methyl piperazine and 0.3321 g (1.489 mmole) of sodium triacetoxyborohydride was stirred for 16 hours. The mixture was quenched by the addition of 1 mL of saturated ammonium chloride, 1 mL of water and 5 mL of dichloromethane, followed by the addition of 10 mL of saturated sodium bicarbonate solution and 20 mL of dichloromethane. The mixture was stirred for 45 minutes and then diluted with 75 mL of dichloromethane and 5 mL of water. The aqueous layer was extracted twice with dichloromethane. The combined dichloromethane layers were dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with methanol-dichloromethane (gradient 1:99-20:80) to give 0.127 g of 2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-4-(3-trifluoromethylphenyl)-thiazole-5-carboxylic acid amide (VI.48c) as a yellow-orange solid.

reactant | 2-(5-formyl-2-nitro-phenylamino)-4-(3-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 0.295 mmole, 0.1289 g | C(=O)C=1C=CC(=C(C1)NC=1SC(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-] | C18H11F3N4O4S
reactant | 1-methyl piperazine | 0.892 mmole, 0.1 mL | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 1.489 mmole, 0.3321 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 6.5 mL | ClCCl | CH2Cl2
product | 2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-4-(3-trifluoromethylphenyl)-thiazole-5-carboxylic acid amide | 0.127 g | CN1CCN(CC1)CC=1C=CC(=C(C1)NC=1SC(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-] | C23H23F3N6O3S
